US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 1.8 g of ethyl (2RS,5SR)-3-{3-{2-[2-(3-hydroxyphenyl)-5-(3-methoxyphenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoate in solution in 30 cm3 of methanol and 0.29 g of potassium hydroxide in solution in 6 cm3 of water and after treatment and recrystallization in diethyl ether, 1 g of (2R*,5S*)-3-{3-{2-[2-(3-hydroxyphenyl)-5-(3-methoxy-phenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid, melting at 172° C., is obtained.

reactant | ethyl (2RS,5SR)-3-{3-{2-[2-(3-hydroxyphenyl)-5-(3-methoxyphenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoate | 1.8 g | OC=1C=C(C=CC1)C1N(C(CC1)C1=CC(=CC=C1)OC)C(CNC(NC=1C=C(C(=O)OCC)C=CC1)=O)=O | C29H31N3O6
solvent | methanol | 30 cm3 | CO | CH4O
product | (2R*,5S*)-3-{3-{2-[2-(3-hydroxyphenyl)-5-(3-methoxy-phenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido}benzoic acid | 1 g | OC=1C=C(C=CC1)[C@@H]1N([C@@H](CC1)C1=CC(=CC=C1)OC)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C27H27N3O6
